US08975415B2
To a solution of 1-(4-bromo-2-iodophenoxy)-5-chloropentan-2-one (1.61 g, 3.86 mmol) in THF (35 mL) was added vinylmagnesium bromide (1M solution in THF, 4.3 mL) at −78° C. under an argon atmosphere. After stirring for 1 hour at −78° C., the mixture was gradually warmed up to −30° C. over 1 hour. The reaction was quenched by adding saturated aqueous NH4Cl solution and extracted with EtOAc. The combined organic layer were washed with brine, dried over Na2SO4, filtered, and the filtrate was evaporated. The residue was purified by silicagel column chromatography (EtOAc-hexane, a linear gradient of EtOAc from 0 to 20%) afforded 3-[(4-bromo-2-iodophenoxy)methyl]-6-chlorohex-1-en-3-ol (1.35 g).

reactant | 1-(4-bromo-2-iodophenoxy)-5-chloropentan-2-one | 3.86 mmol, 1.61 g | BrC1=CC(=C(OCC(CCCCl)=O)C=C1)I | C11H11BrClIO2
reactant | vinylmagnesium bromide | 1M, 4.3 mL | C(=C)[Mg]Br
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 3-[(4-bromo-2-iodophenoxy)methyl]-6-chlorohex-1-en-3-ol | 1.35 g | BrC1=CC(=C(OCC(C=C)(CCCCl)O)C=C1)I | C13H15BrClIO2
